US05514680
3-Chloro-4,5-difluoro-1,2-diaminobenzene was prepared using an adaptation of the method of Bellamy et al. (Bellamy, F. D. et al., Tetrahedron Lett. 25:839 (1984)) A mixture of 2-chloro-3,4-difluoro-6-nitroaniline (160 mg, 0.767 mmol) and SnCl2 2H2O (0.863 g, 3.84 mmol) was dissolved in 5 mL ethyl acetate and 2 mL absolute ethanol under N2 and heated at 75° C. for 5 h. The reaction was allowed to cool to room temperature and poured into 50 mL H2O. Sufficient sat'd NaHCO3 solution was added (foaming ) to bring the pH to 7. The resulting mixture was extracted with 3×20 mL ethyl acetate and the combined organic extracts washed with 20 mL sat'd NaCl solution. The organic phase was dried (MgSO4), vacuum filtered and the solvent rotary evaporated to yield a brown solid, 124 mg (91%). 1H NMR (CDCl3) δ3.52 (br s, 4H, 2(NH2)); 6.49 (dd, 1H, JHF =7.5, 10.8 Hz, H-6). There was 13% 4,5-difluoro-1,2-diaminobenzene present by NMR.

reactant | 2-chloro-3,4-difluoro-6-nitroaniline | 0.767 mmol, 160 mg | ClC1=C(N)C(=CC(=C1F)F)[N+](=O)[O-] | C6H3ClF2N2O2
reactant | SnCl2 | Cl[Sn]Cl
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
reactant | 4,5-difluoro-1,2-diaminobenzene | FC1=CC(=C(C=C1F)N)N | C6H6F2N2
solvent | ethyl acetate | 5 mL | C(C)(=O)OCC | C4H8O2
solvent | H2O | 50 mL | O | H2O
solvent | ethanol | 2 mL | C(C)O | C2H6O
product | 3-Chloro-4,5-difluoro-1,2-diaminobenzene | ClC=1C(=C(C=C(C1F)F)N)N | C6H5ClF2N2
